US05688803
63.8 mg (0.92 mmol) of sodium nitrite were added at 0° C. to a suspension of 210 mg (0.83 mmol) of 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride in 5 ml of 48% hydrobromic acid. The mixture was stirred at 0° C. for 1 hr. and then 132 mg (0.99 mmol) of copper(I) bromide in 2 ml of water were added dropwise. After stirring at RT for 16 hrs. the precipitate was filtered off, washed with methanol and dried in a vacuum. 57 mg (24%) of 8-bromo-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione were obtained as yellowish crystals;

reactant | sodium nitrite | 0.92 mmol, 63.8 mg | N(=O)[O-].[Na+]
reactant | 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride | 0.83 mmol, 210 mg | Cl.NC=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O
reactant | hydrobromic acid | 5 ml | Br | BrH
solvent | water | 2 ml | O | H2O
catalyst | copper(I) bromide | 0.99 mmol, 132 mg | [Cu]Br
product | 8-bromo-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 57 mg, 24% | BrC=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O | C9H5BrN4O2
